US07855298B2
Preparation 2: Dimethyl 1-(4-methoxyphenyl)-1,2-cyclopropanedicarboxylate
To a stirred slurry of of NaH (4.4 g, 60% in mineral oil) in anhydrous Et2O (0.3 l) was added methanol (10.3 mL) followed by a solution of bromo ester obtained in Prep. 1 methyl bromo(4-methoxyphenyl)acetate (29 g) in methyl acrylate (19.8 mL) (for examples starting from an ethyl phenylacetate derivative ethanol and ethyl acrylate were used, respectively) and methanol (3 mL) at 0° C., over a 30 min. The mixture was stirred at 25° C. for 24 h and then unreacted NaH was decomposed with 3 mL methanol. Water was added (75 mL), the organic phase separated, dried over Na2SO4 and filtered. Volatiles were evaporated in vacuo to give 31.5 g of the title compound as an oil, which was used in the subsequent step without further purification.

reactant | NaH | 4.4 g | [H-].[Na+]
reactant | methyl bromo(4-methoxyphenyl)acetate | 29 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC | C10H11BrO3
reactant | ethyl phenylacetate | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | Et2O | 0.3 l | CCOCC | C4H10O
solvent | methyl acrylate | 19.8 mL | C(C=C)(=O)OC | C4H6O2
solvent | Water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 10.3 mL | CO | CH4O
product | Dimethyl 1-(4-methoxyphenyl)-1,2-cyclopropanedicarboxylate | 31.5 g | COC1=CC=C(C=C1)C1(C(C1)C(=O)OC)C(=O)OC | C14H16O5
